US07498440B2
1-{3-[(4-fluorophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0182 g, 0.0621 mmol) and 3-bromopropyl 4-fluorophenyl ether (0.0173 g, 0.0742 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0143 g, 43.7%). EI-MS m/z 446(M+) Rt (1.96 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.0621 mmol, 0.0182 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 3-bromopropyl 4-fluorophenyl ether | 0.0742 mmol, 0.0173 g | FC1=CC=C(C=C1)OCCCBr | C9H10BrFO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 1-{3-[(4-fluorophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0143 g, 43.7% | [Br-].FC1=CC=C(C=C1)OCCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C29H33FNO2.BrH/c30-26-12-14-27(15-13-26)33-23-7-19-31-20-16-28(17-21-31,18-22-31)29(32,24-8-3-1-4-9-24)25-10-5-2-6-11-25;/h1-6,8-15,32H,7,16-23H2;1H/q+1;/p-1
